US06916808B2
Preparation of 2-octylthio-7-methyl-4H-3,1-benzoxazin-4-one
1-Octanethiol (0.71 ml, 4.1 mmol) was dissolved in THF (10 ml). To this solution was added a solution of phosgene (20% in PhMe, 3.5 ml, 7.4 mmol). After 2.5 h the reaction vessel was purged with nitrogen to remove excess phosgene and hydrogen chloride, the vented gas being passed through a scrubber containing dilute aqueous sodium hydroxide. The crude octyl chlorothiolformate solution was used directly. 2-Amino-4-methylbenzoic acid (151 mg, 1 mmol) was dissolved in pyridine (0.5 ml) and DCM (5 ml). To this was added one quarter of the crude octyl chlorothiolformate solution (1 mmol, assuming 100% from the first step). After 24 h, the reaction was diluted with ether and washed with 1M aqueous HCl and brine. The organic phase was dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography (EtOAc/hexane gradient) to give a solid which was triturated with acetonitrile to afford the title compound (43 mg, 14%): δH (400 MHz, CDCl3) 0.82 (3H, t, J 6.7, Me), 1.21-1.24 (8H, m, 4×CH2), 1.37-1.41 (2H, m, SCH2CH2CH2), 1.68-1.72 (2H, m, SCH2CH2), 2.40 (3H, s, ArMe), 3.08 (2H, t, J 7.4, SCH2), 7.16 (1H, d, J 8.0, ArH), 7.19 (1H, d, J 1.4, ArH), 7.93 (1H, d, J 8.0, ArH); m/z (ES+) 306 (MH+).

reactant | 1-Octanethiol | 4.1 mmol, 0.71 ml | C(CCCCCCC)S | C8H18S
reactant | phosgene | 7.4 mmol, 3.5 ml | C(=O)(Cl)Cl | CCl2O
reactant | 2-Amino-4-methylbenzoic acid | 1 mmol, 151 mg | NC1=C(C(=O)O)C=CC(=C1)C | C8H9NO2
reactant | octyl chlorothiolformate | ClC1=C(SC=C1)C(=O)OCCCCCCCC | C13H19ClO2S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 2-octylthio-7-methyl-4H-3,1-benzoxazin-4-one | 43 mg, 14% | C(CCCCCCC)SC1=NC2=C(C(O1)=O)C=CC(=C2)C | C17H23NO2S
